US06245328B1
The synthesis was carried out in a similar manner to Example 4/(a), but using 8 g (49.3 mmol) of 2-n-propyl-1,3-dithian, 52 mmol of n-butyllithium (32.5 ml of a 1.6 M solution in n-hexane) and 2.5 g (56.8 mmol) of acetaldehyde. 8.84 g of 2-(1-hydroxyethyl)-2-n-propyl-1,3-dithian were obtained as a colorless oil.

reactant | 2-n-propyl-1,3-dithian | 49.3 mmol, 8 g | C(CC)C1SCCCS1 | C7H14S2
reactant | n-butyllithium | 52 mmol | C(CCC)[Li]
reactant | acetaldehyde | 56.8 mmol, 2.5 g | C(C)=O | C2H4O
solvent | n-hexane | CCCCCC | C6H14
product | 2-(1-hydroxyethyl)-2-n-propyl-1,3-dithian | 8.84 g | OC(C)C1(SCCCS1)CCC | C9H18OS2
